### PR TITLE
Allow to pass block operands to `createOp`

### PR DESCRIPTION
**Pull request by math-fehr**

### CODE REVIEW

File: Veir/Rewriter/Basic.lean [hunk 1]
```diff
@@ -452,6 +452,68 @@ theorem Rewriter.initOpOperands_inBounds_mono (ptr : GenericPtr) :
     simp [initOpOperands]
     grind
 
+
+@[irreducible]
+protected def Rewriter.pushBlockOperand (ctx : IRContext) (opPtr : OperationPtr) (blockPtr : BlockPtr)
```
Comment (luisacicolini) [inline Veir/Rewriter/Basic.lean:457]: I think a `namespace Rewriter` in this file would be a great starting point to take better advantage of namespaces (not necessarily in this pr)

File: Veir/Rewriter/Basic.lean [hunk 2]
```diff
@@ -452,6 +452,68 @@ theorem Rewriter.initOpOperands_inBounds_mono (ptr : GenericPtr) :
...
+  let ctx := opPtr.pushBlockOperand ctx operand (by grind)
+  let ctx := (BlockOperandPtr.mk opPtr index).insertIntoCurrent ctx (by grind) (by grind)
+  ctx
+
+@[grind .]
+theorem Rewriter.pushBlockOperand_inBounds (ptr : GenericPtr) :
+    ptr.InBounds (Rewriter.pushBlockOperand ctx opPtr valuePtr h₁ h₂ h₃) ↔
+    (ptr.InBounds ctx ∨
+     ptr = .blockOperand ⟨opPtr, (opPtr.getNumSuccessors! ctx)⟩ ∨
+     ptr = .blockOperandPtr (.blockOperandNextUse ⟨opPtr, (opPtr.getNumSuccessors! ctx)⟩)) := by
```
Comment (luisacicolini) [inline Veir/Rewriter/Basic.lean]:
```suggestion
      ptr = .blockOperand ⟨opPtr, (opPtr.getNumSuccessors! ctx)⟩ ∨
      ptr = .blockOperandPtr (.blockOperandNextUse ⟨opPtr, (opPtr.getNumSuccessors! ctx)⟩)) := by
```

**Review by luisacicolini — APPROVED** [review]

**Review by ineol — APPROVED** [review]
